US07919519B2
Methyl 1-((4-(6-benzyl-5-chlorofuro[3,2-b]pyridin-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate
In a sealed flask was combined 5-benzyl-6-chloro-2-iodopyridin-3-ol (1.50 g, 4.3 mmol), PdCl2(PPh3)2 (0.30 g, 0.43 mmol), copper(I) iodide (0.17 g, 0.87 mmol), N-ethyl-N-isopropylpropan-2-amine (6.1 mL, 35 mmol), methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate (1.2 g, 4.8 mmol) and DMF (10 mL, 129 mmol). The flask was flushed with argon, sealed and placed in an oil bath for 16 h at 80° C. The reaction was concentrated to remove solvent, and the resulting black mixture was adsorbed onto silica. Flash chromatography (100% EtOAc) afforded a yellow oil that was further purified on a Varian HF Mega Bond Elut SCX column (eluted with 2M ammonia in MeOH). Trituration with of the resulting solids with ether afforded an off-white solid. 1H NMR (300 MHz, CHLOROFORM-d) δ ppm 7.83-7.90 (1H, m), 7.49 (1H, s), 7.27-7.40 (5H, m), 7.22-7.24 (1H, m), 7.12-7.19 (2H, m), 4.20 (2H, s), 3.72 (3H, s), 3.65 (2H, s), 3.52-3.59 (2H, m), 3.32-3.38 (3H, m); MS (ESI) m/z: Calculated: 464.1; Observed: 465.1 (M++1).

reactant | 5-benzyl-6-chloro-2-iodopyridin-3-ol | 4.3 mmol, 1.50 g | C(C1=CC=CC=C1)C=1C=C(C(=NC1Cl)I)O | C12H9ClINO
reactant | N-ethyl-N-isopropylpropan-2-amine | 35 mmol, 6.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | methyl 1-(4-ethynyl-3-fluorobenzyl)azetidine-3-carboxylate | 4.8 mmol, 1.2 g | C(#C)C1=C(C=C(CN2CC(C2)C(=O)OC)C=C1)F | C14H14FNO2
reactant | DMF | 129 mmol, 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.43 mmol, 0.30 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.87 mmol, 0.17 g | [Cu]I
product | Methyl 1-((4-(6-benzyl-5-chlorofuro[3,2-b]pyridin-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylate | C(C1=CC=CC=C1)C=1C=C2C(=NC1Cl)C=C(O2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)OC)F | C26H22ClFN2O3
